data/pmechdb/original/mc_train_fold0/raw/train.txt
[H:20][NH+:21](C1=CC=C(C=C1I)Cl)C(CNC(=O)OCC2C3=C(C=CC=C3)C4=C2C=CC=C4)([O-])OC(=NCC)NCCCN(C)C.CCN=C=NCCC[N:10](C)C>>[H:20][N+:10](C)(C)CCCN=C=NCC.CCN=C(NCCCN(C)C)OC(CNC(=O)OCC1C2=C(C=CC=C2)C3=C1C=CC=C3)([NH:21]C4=CC=C(C=C4I)Cl)[O-] 10=20;20,21=21
CC(=O)CC[CH:20]=[OH+:21].C(CO)[OH:10]>>CC(=O)CC[CH:20]([OH:21])[OH+:10]CCO 10=20;20,21=21
CN(C)C1=CC=[N+](C=C1)[C:20](=[O:21])C2=CC=CC=C2.C1=CC(=C(C=C1)[N+](=O)[O-])[NH2:10].C1=CC=NC=C1.[Cl-]>>CN(C)C1=CC=[N+](C=C1)[C:20](C2=CC=CC=C2)([NH2+:10]C3=C(C=CC=C3)[N+](=O)[O-])[O-:21].C1=CC=NC=C1.[Cl-] 10=20;20,21=21
CC(C)C[C:11]#[C:10]CC(CC(C)C)C[N+:21](=[CH2:20])CC1=CC=CC=C1>>CC(C)C[C+:11]=[C:10]1CC(C[N:21]([CH2:20]1)CC2=CC=CC=C2)CC(C)C 10,11=10,20;20,21=21
CC[C:20](=[O:21])OCC.CCO[C:11](=[CH:10]C)[O-:12]>>CC[C:20]([CH:10](C)[C:11](=[O:12])OCC)([O-:21])OCC 10,11=10,20;20,21=21;12=11
[H:20][CH:21](C(=O)OCC)[C:22](=[O:23])OCC.C[C:11](=[CH2:10])[O-:12]>>[H:20][CH2:10][C:11](=[O:12])C.CCO[C:22](=[CH:21]C(=O)OCC)[O-:23] 10,11=10,20;12=11;22,23=23;20,21=21,22
[H:20][CH:21](C#N)[N+](=O)[O-].[OH-:10]>>[H:20][OH:10].[CH-:21](C#N)[N+](=O)[O-] 10=20;20,21=21
[H:20][CH:21]1CC2C(CCCC2=C)C[C:22]1=[N+:23]3CCCC3.C1CC[NH:10]C1.O>>[H:20][NH+:10]1CCCC1.C=C1CCCC2C1C[CH:21]=[C:22](C2)[N:23]3CCCC3.O 10=20;22,23=23;20,21=21,22
CCO[P+:22](CCCC1=CC=CC=C1)(OCC)[O:21][CH2:20]C.[Br-:10]>>CCO[P:22](=[O:21])(CCCC1=CC=CC=C1)OCC.C[CH2:20][Br:10] 10=20;20,21=21,22
[H:20][CH:21](C)[CH+:22]OC.[OH2:10]>>[H:20][OH2+:10].C[CH:21]=[CH:22]OC 10=20;20,21=21,22
CC(=O)O[C:11](=[CH:10]NC(=O)C1=CC=CC=C1)[O-:12].COC1=C(C(=CC=C1)O)[CH:20]=[O:21].C(=O)(O)O[K].[K+]>>CC(=O)O[C:11](=[O:12])[CH:10]([CH:20](C1=C(C=CC=C1O)OC)[O-:21])NC(=O)C2=CC=CC=C2.C(=O)(O)O[K].[K+] 10,11=10,20;20,21=21;12=11
[H:20][CH:21](C)[C:22](=[O:23])OCC.CC[O-:10]>>[H:20][O:10]CC.CCO[C:22](=[CH:21]C)[O-:23] 10=20;22,23=23;20,21=21,22
CC1CCC([C:11]2(C13CCC(C3)[C:10]2(C)[CH2:20][O:21][S:22](=O)(=[O:23])C4=CC=C(C=C4)C)[O-:12])S(=O)(=O)C5=CC=CC=C5.[Na+]>>CC1=CC=C(C=C1)[S:22](=O)(=[O:21])[O-:23].CC1CCC([C:11](=[O:12])C12CCC(C2)[C:10](=[CH2:20])C)S(=O)(=O)C3=CC=CC=C3.[Na+] 10,11=10,20;12=11;22,23=23;20,21=21,22
[H:20][O:21]C(=O)C1=C(C2=C(C(=C1C(=O)OC)C3=CC(=C(C=C3)OC)OC)C(=C(C(=C2)OC)OC)OC)OCOC.CCCCCCOP(C1=CC=CC=C1)(C2=CC=CC=C2)(C3=CC=CC=C3)N(C(=[O:10])OCC)NC(=O)OCC>>[H:20][O+:10]=C(N(NC(=O)OCC)P(C1=CC=CC=C1)(C2=CC=CC=C2)(C3=CC=CC=C3)OCCCCCC)OCC.COCOC1=C(C(=C(C2=C1C=C(C(=C2OC)OC)OC)C3=CC(=C(C=C3)OC)OC)C(=O)OC)C(=O)[O-:21] 10=20;20,21=21
[H:20][O+:21](CC)S(=O)(C)([O-])Cl.C1=CC=[N:10]C=C1>>[H:20][N+:10]1=CC=CC=C1.CC[O:21]S(=O)(C)([O-])Cl 10=20;20,21=21
[H:20][N+:21]1=CC=CC=C1.[OH2:10]>>[H:20][OH2+:10].C1=CC=[N:21]C=C1 10=20;20,21=21
[H:20][CH:21]1C(=O)CCC([C:22]1=[OH+:23])(C)C.CC[O-:10]>>[H:20][O:10]CC.CC1(CCC(=O)[CH:21]=[C:22]1[OH:23])C 10=20;22,23=23;20,21=21,22
CC(C)O[C:20](=[O:21])C.[OH-:10]>>CC(C)O[C:20](C)([OH:10])[O-:21] 10=20;20,21=21
B1(OC2=C(O1)C=CC=C2)C3=C([O+:23]=[C:22](C=C3)[O:21][CH3:20])CCC.[Cl-:10]>>B1(OC2=C(O1)C=CC=C2)C3=C([O:23][C:22](=[O:21])C=C3)CCC.[CH3:20][Cl:10] 10=20;22,23=23;20,21=21,22
[H:20][O:21]OC(=[O:10])C1=CC=CC(=C1)Cl.CCCCCC=CCC#CCCCCC.CCOC(=O)CCCCC=CC(C1C(CC(=O)C1CCC(=O)OCC)O[Si](C)(C)C(C)(C)C)SC2=CC=CC=C2.CC=CC(CC(C)(C)O)N(C)C(C)C1=CC=CC=C1.CC1CC(C23CCCN4C2(CCC4)C(=O)CC3C1O)O.CC1=C(C=C2C(=C1)N(C=C(C2=O)C(=O)O)CN3CCN(CC3)CC4=C(OC(=O)O4)C)F.C[Si](C)(C)C1CCC=C1>>[H:20][O+:10]=C(C1=CC=CC(=C1)Cl)O[O-:21].CCCCCC=CCC#CCCCCC.CCOC(=O)CCCCC=CC(C1C(CC(=O)C1CCC(=O)OCC)O[Si](C)(C)C(C)(C)C)SC2=CC=CC=C2.CC=CC(CC(C)(C)O)N(C)C(C)C1=CC=CC=C1.CC1CC(C23CCCN4C2(CCC4)C(=O)CC3C1O)O.CC1=C(C=C2C(=C1)N(C=C(C2=O)C(=O)O)CN3CCN(CC3)CC4=C(OC(=O)O4)C)F.C[Si](C)(C)C1CCC=C1 10=20;20,21=21
CC(=[O:10])N.C[Si:20](C)(C)OS(=O)(=O)C>>CC(=[O+:10][Si-:20](C)(C)(C)OS(=O)(=O)C)N 10=20,
CC([C:20]([OH:10])(OC)[Br:21])Br>>CC([C:20](=[OH+:10])OC)Br.[Br-:21] 10=20;20,21=21
C[CH2:20][Br:21].C[C:11](=[NH:10])[O-:12]>>C[CH2:20][NH:10][C:11](=[O:12])C.[Br-:21] 10,11=10,20;20,21=21;12=11
[OH:11][Sn-:10](Cl)(Cl)(Cl)Cl.CCOC(=O)N1CCC=CC1C[CH+]C[Si](C)(C)C>>[OH-:11].Cl[Sn:10](Cl)(Cl)Cl.CCOC(=O)N1CCC=CC1C[CH+]C[Si](C)(C)C 10,11=11
CCC(=O)O[C:11]1=[CH:10]C=CC=C1.O[S+:20](=O)=O>>CCC(=O)O[C+:11]1C=CC=C[CH:10]1[S:20](=O)(=O)O 10,11=10,20
[Li:11][C:10]1=CC=CC=C1.CCOC(=O)CC[C:20](=[O:21])C>>[Li+:11].CCOC(=O)CC[C:20](C)([C:10]1=CC=CC=C1)[O-:21] 10,11=10,20;20,21=21
[H:20][O:21]P(=O)(O)O.CC=CC(C)[OH:10]>>[H:20][OH+:10]C(C)C=CC.OP(=O)(O)[O-:21] 10=20;20,21=21
[H:20][O:21]S(=O)(=O)O.CC(C#N)[O-:10]>>[H:20][O:10]C(C)C#N.OS(=O)(=O)[O-:21] 10=20;20,21=21
[H:20][CH:21](CC(=O)OC)[C:22](=[O:23])OC.C[O:10][Na].CCC1=C(C=C(C=C1)C=O)O.CO>>[H:20][O+:10](C)[Na].COC(=O)C[CH:21]=[C:22]([O-:23])OC.CCC1=C(C=C(C=C1)C=O)O.CO 10=20;22,23=23;20,21=21,22
[H:20][CH:21](C)[C:22](CC)(C(C)C)[N+:23](C)(C)C.[OH-:10]>>[H:20][OH:10].CC[C:22](=[CH:21]C)C(C)C.C[N:23](C)C 10=20;22,23=23;20,21=21,22
[H:20][NH2+:21]CC=C.C=CCNC(C(CCC1=CC=CC=C1)O)[OH:10].B(C=CC1=CC=CC=C1)(O)O>>[H:20][OH+:10]C(C(CCC1=CC=CC=C1)O)NCC=C.C=CC[NH2:21].B(C=CC1=CC=CC=C1)(O)O 10=20;20,21=21
